US09029391B2
An ice cold solution of methyl 2-(7-(aminomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate (25 mg, 0.057 mmol) in dichloromethane (DCM) (549 μl) was treated with Et3N (15.96 μl, 0.115 mmol) and acetic anhydride (8.11 μl, 0.086 mmol), and then stirred for 3 hours. The mixture was quenched with sat. NaHCO3, extracted with DCM, washed with brine, dried with Na2SO4, filtered, and concentrated. The residue was hydrolyzed in a manner similar to that described in Example 165 Step C and purified by reverse phase HPLC to afford 2-(7-(acetamidomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetic acid (21.6 mg, 0.045 mmol, 85% yield) as an off-white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm, 8.37 (s, 1 H), 7.47 (t, J=7.3 Hz, 1 H), 7.39-7.29 (m, 1 H), 7.24 (d, J=7.2 Hz, 1 H), 7.13 (dd, J=8.4, 12.6 Hz, 1 H), 7.09-6.98 (m, 1 H), 6.11 (br. s., 1 H), 5.34 (s, 1 H), 4.63-4.45 (m, 2 H), 3.69 (s, 3 H), 2.36 (s, 3 H), 2.31 (s, 3 H), 2.05 (s, 3 H), 1.10-0.96 (m, 9 H); LCMS (m/z) ES+=465 (M+1).

reactant | methyl 2-(7-(aminomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate | 0.057 mmol, 25 mg | NCC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C26H32N2O4
reactant | Et3N | 0.115 mmol, 15.96 μl | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 0.086 mmol, 8.11 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 549 μl | ClCCl | CH2Cl2
product | 2-(7-(acetamidomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetic acid | 0.045 mmol, 21.6 mg, 85% yield | C(C)(=O)NCC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)O)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C27H32N2O5
